US08022208B2
Methyl 4-[1-(4-methoxybenzyl)-6-oxo-1,6-dihydropyrimidin-5-yl]benzoate (205 mg) was dissolved in trifluoroacetic acid (5 mL), followed by stirring at 70° C. for 15 hours. The reaction mixture was evaporated under reduced pressure, followed by two times azeotropy with toluene. Water was added to the resulting residue, followed by three times extraction with chloroform. The organic layer was dried over anhydrous sodium sulfate, then the solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (methanol/chloroform=2% to 5%) to obtain methyl 4-(6-oxo-1,6-dihydropyrimidin-5-yl)benzoate (86 mg) as a white solid.

reactant | Methyl 4-[1-(4-methoxybenzyl)-6-oxo-1,6-dihydropyrimidin-5-yl]benzoate | 205 mg | COC1=CC=C(CN2C=NC=C(C2=O)C2=CC=C(C(=O)OC)C=C2)C=C1 | C20H18N2O4
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | methyl 4-(6-oxo-1,6-dihydropyrimidin-5-yl)benzoate | 86 mg | O=C1C(=CN=CN1)C1=CC=C(C(=O)OC)C=C1 | C12H10N2O3
